US05998463
Preparation 19 5-(2-Methyl-[1,3]dioxolan-2-yl)-1-(2,2,2-trifluoro-ethyl)-1,3-dihydro-indol-2-one.
A solution of 5-acetyl-1-(2,2,2-trifluoro-ethyl)-1,3-dihydro-indol-2-one (1.04 g, 4.0 mmol), ethylene glycol (1.37 mL, 24 mmol) and p-toluenesulfonic acid (10 mg) in benzene (25 mL) was heated to reflux for 4 hours in a flask fitted with a Dean-Stark trap. The solution was diluted with ethyl acetate, washed with saturated sodium bicarbonate, water and brine, dried over magnesium sulfate and concentrated in vacuo to an oil which solidified upon standing (1.19 g, 98%, mp 87-89° C.).

reactant | 5-acetyl-1-(2,2,2-trifluoro-ethyl)-1,3-dihydro-indol-2-one | 4.0 mmol, 1.04 g | C(C)(=O)C=1C=C2CC(N(C2=CC1)CC(F)(F)F)=O | C12H10F3NO2
reactant | ethylene glycol | 24 mmol, 1.37 mL | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid | 10 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | 25 mL | C1=CC=CC=C1 | C6H6
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-(2-Methyl-[1,3]dioxolan-2-yl)-1-(2,2,2-trifluoro-ethyl)-1,3-dihydro-indol-2-one | CC1(OCCO1)C=1C=C2CC(N(C2=CC1)CC(F)(F)F)=O | C14H14F3NO3
